US05461036
To the solution of 2-bromohexadecanoic acid (1.00 g) in N,N-dimethylformamide (DMF, 15 ml) was added sodium azide (0.86 g), and the mixture was stirred at 80° C. for 12 hours. To the reaction mixture, after having been cooled to room temperature, was then added water. The mixture was extracted with ethyl acetate, and the ethyl acetate layer was separated, washed twice with brine, dried over anhydrous sodium sulfate. The solvent was removed by distillation to give 2-azidohexadecanoic acid (0.73 g). To the solution of 2-azidohexadecanoic acid in DMF were added N-hydroxysuccinimide (74 mg) and N,N'-dicyclohexylcarbodiimide (146 mg), and the mixture was stirred for 12 hours. Precipitates produced was removed by filtration, and the filtrate was concentrated to give the active ester of 2-azidohexadecanoic acid. To the active ester in DMF were further added 6-(4'-N-glycylspicaminyl-amino)purine hydrochloride (246 mg) and triethylamine (0.72 ml), and the mixture was stirred for 12 hours. The solvent was removed by distillation, and the residue was subjected to chromatography on a silica gel column with an eluent system of chloroform-methanol (6:1) to give SPK229 in the yield of 185 mg.

reactant | 2-bromohexadecanoic acid | 1.00 g | BrC(C(=O)O)CCCCCCCCCCCCCC | C16H31BrO2
reactant | sodium azide | 0.86 g | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 2-azidohexadecanoic acid | 0.73 g | N(=[N+]=[N-])C(C(=O)O)CCCCCCCCCCCCCC | C16H31N3O2
